US08026237B2
To a solution of 2-cyano-3-methyl-4-oxo-4-(2-trifluoromethyl-phenyl)-butyric acid methyl ester (13.27 g, 44.4 mmol) in formic acid (100 mL) was added freshly prepared Raney nickel [Al—Ni (1:1), 117 g] and the mixture was heated to reflux with stirring for 2 h. After cooling, the catalyst was removed by filtration and washed with ethanol. The combined filtrates were concentrated to give an oil, which was re-dissolved in DCM and filtered to remove residual solids. Evaporation of solvent gave 4-methyl-5-(2-trifluoromethyl-phenyl)-2,3-dihydro-1H-pyrrole-3-carboxylic acid methyl ester as an oil (10 g, 79%), which was used in the next step without purification. MS (ES): 286 (MH+).

reactant | 2-cyano-3-methyl-4-oxo-4-(2-trifluoromethyl-phenyl)-butyric acid methyl ester | 44.4 mmol, 13.27 g | COC(C(C(C(C1=C(C=CC=C1)C(F)(F)F)=O)C)C#N)=O | C14H12F3NO3
solvent | formic acid | 100 mL | C(=O)O | CH2O2
catalyst | Raney nickel | 117 g | [Ni] | Ni
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-methyl-5-(2-trifluoromethyl-phenyl)-2,3-dihydro-1H-pyrrole-3-carboxylic acid methyl ester | 10 g, 79% | COC(=O)C1CNC(=C1C)C1=C(C=CC=C1)C(F)(F)F | C14H14F3NO2
